US08044062B2
Anhydrous DMF (5.0 mL) was added to a flask charged with 2-amino-8-ethyl-6-ethynyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one (0.204 g, 0.894 mmol), sodium azide (0.070 g, 1.07 mmol), and ammonium chloride (0.057 g, 1.07 mmol). The reaction was capped under nitrogen and heated to 120° C. After 48 h, the reaction was cooled to room temperature and concentrated in vacuo. The residue was purified on reverse phase HPLC (acetonitrile: water 0.1% TFA, 20-60% gradient). The fractions containing product were collected and concentrated to one half volume and poured into saturated NaHCO3 (50 mL). The aqueous phase was washed trice with ethyl acetate (50 mL) and dried over Na2SO4, filtered, and concentrated in vacuo. The residue was triturated with methylene chloride and ethyl acetate to afford 2-amino-8-ethyl-4-methyl-6-(1H-1,2,3-triazol-5-yl)pyrido[2,3-d]pyrimidin-7(8H)-one (14 mg, 6% yield) as a light yellow solid: 1H NMR (400 MHz, DMSO-d6): δ 8.55 (bs, 1H), 8.41 (bs, 1H), 7.32 (bs, 2H), 4.37 (q, J=7.2 Hz, 2H), 2.60 (s, 3H), 1.21 (t, J=7.2 Hz, 3H); MS (EI) for C12H13N7O: 272.0 (MH+).

reactant | 2-amino-8-ethyl-6-ethynyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 0.894 mmol, 0.204 g | NC=1N=C(C2=C(N1)N(C(C(=C2)C#C)=O)CC)C | C12H12N4O
reactant | sodium azide | 1.07 mmol, 0.070 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.07 mmol, 0.057 g | [Cl-].[NH4+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 2-amino-8-ethyl-4-methyl-6-(1H-1,2,3-triazol-5-yl)pyrido[2,3-d]pyrimidin-7(8H)-one | 14 mg, 6% yield | NC=1N=C(C2=C(N1)N(C(C(=C2)C2=CN=NN2)=O)CC)C | C12H13N7O
